US04578378
Into tetrahydrofuran (20 ml) containing diisopropylamine (1.82 ml) is added 15% n-butyllithium-hexane (7.5 ml), and the mixture is stirred for 25 minutes. To this solution are added 1-methyl-2-azetidinone dropwise at -70° C. and after 20 minutes, diethyl carbonate (1.33 ml). After 2.5 hours stirring, reaction mixture is quenched with 10% hydrochloric acid (15 ml) and extracted with ethyl acetate. The solvent is evaporated to give 1-methyl-2-oxoazetidine-3-carboxylic acid ethyl ester (476 mg). Colorless oil.

reactant | diisopropylamine | 1.82 ml | C(C)(C)NC(C)C | C6H15N
reactant | 1-methyl-2-azetidinone | CN1C(CC1)=O | C4H7NO
reactant | diethyl carbonate | 1.33 ml | C(OCC)(OCC)=O | C5H10O3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-methyl-2-oxoazetidine-3-carboxylic acid ethyl ester | 476 mg | C(C)OC(=O)C1C(N(C1)C)=O | C7H11NO3
